US07384949B2
4,7-Bis(2-furyl)-N,N-dimethylthieno[3,2-d]pyrimidine-2-amine (Example 31)
A mixture of AsPh3 (73 mg, 0.24 mmol) in DMF (2 mL) was treated with Pd(OAc)4 (13 mg, 0.06 mmol), stirred at room temperature for 10 min, treated with 7-bromo-N,N-dimethyl-4-(2-furyl)thieno[3,2-d]pyrimidine-2-amine (194 mg, 0.6 mmol) and 2-(tributylstannyl)-furan (340 μL, 1.1 mmol), heated to 100° C. for 16 h, cooled, poured into water, extracted with EtOAc, dried (MgSO4), concentrated in vacuo and purified by chromatography (SiO2:EtOAc:Heptane, 1:9) to give the title compound (27 mg, 15%) as a orange solid.

reactant | AsPh3 | 0.24 mmol, 73 mg | C=1C=CC(=CC1)[As](C=2C=CC=CC2)C=3C=CC=CC3 | C18H15As
reactant | 7-bromo-N,N-dimethyl-4-(2-furyl)thieno[3,2-d]pyrimidine-2-amine | 0.6 mmol, 194 mg | BrC1=CSC2=C1N=C(N=C2C=2OC=CC2)N(C)C | C12H10BrN3OS
reactant | 2-(tributylstannyl)-furan | 1.1 mmol, 340 μL | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
reactant | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4,7-Bis(2-furyl)-N,N-dimethylthieno[3,2-d]pyrimidine-2-amine | 27 mg, 15% | O1C(=CC=C1)C=1C2=C(N=C(N1)N(C)C)C(=CS2)C=2OC=CC2 | C16H13N3O2S
